US04213980
A 500 ml round flask, which is connected to a distillation head and a condenser, is charged with 3.5 g (0.013 mole) of 2-methyl-3,4-dihydro-4-oxo-2H-1,2-benzothiazine-3-carboxylic acid methyl ester 1,1-dioxide, 2.1 g (0.013 mole) of 3-amino-4-oxo-4H-1-benzopyrane and 100 ml of dry xylene. Then nitrogen gas is blown into the resulting suspension for 5 minutes. The reaction mixture is subsequently subjected to a slow distillation lasting 15 hours, in the course of which procedure complete solution is attained after heating for only 10 minutes. The solvent is replaced every 2 hours. The reaction mixture is then cooled to 50° C. The precipitate which has formed is collected by filtration, washed with ethanol and dried, yielding 2-methyl-3,4-dihydro-4-oxo-N-(4-oxo-4H-1-benzopyran-3-yl)-2H-1,2-benzothiazine-3-carboxamide, 1,1-dioxide in the form of brownish crystals with a melting point of 290° C. (with decomp.).

reactant | 2-methyl-3,4-dihydro-4-oxo-2H-1,2-benzothiazine-3-carboxylic acid methyl ester 1,1-dioxide | 0.013 mole, 3.5 g | COC(=O)C1N(S(C2=C(C1=O)C=CC=C2)(=O)=O)C | C11H11NO5S
reactant | 3-amino-4-oxo-4H-1-benzopyrane | 0.013 mole, 2.1 g | NC1=COC2=C(C1=O)C=CC=C2 | C9H7NO2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-methyl-3,4-dihydro-4-oxo-N-(4-oxo-4H-1-benzopyran-3-yl)-2H-1,2-benzothiazine-3-carboxamide | CN1SC2=C(C(C1C(=O)NC1=COC3=C(C1=O)C=CC=C3)=O)C=CC=C2 | C19H14N2O4S
